US08604244B2
To a stirred solution of ethyl chloroformate (3 g, 0.027 mol.) and N-hydroxysuccinimide (3.8 g, 0.033 mol.) in 10 mL of DCM at 0° C. under nitrogen atmosphere was added N,N-Diisopropylethylamine (7.0 mL, 0.04 mol). The progress of the reaction was monitored by thin layer chromatography (TLC). After stirring for 3 hrs at room temperature. DCM was evaporated and the residue was dissolved in 10 mL of acetonitrile, cooled in an ice-bath and then added dropwise a solution of 2-amino-2-methyl-1-propanol (3.1 mL, 1.2 eq). The resulting mixture was stirred at ice-bath temperature for 1 h and then overnight at room temperature. The progress of the reaction was monitored by thin layer chromatography (TLC). The reaction mixture was filtered, and the precipitate was washed with 2×10 mL DCM and dried over sodium sulfate. After removing the solvent under reduce pressure, the residue was purified by silica gel column chromatography to give ethyl (1-hydroxy-2-methylpropan-2-yl)carbamate as a colorless oil

reactant | ethyl chloroformate | 0.027 mol, 3 g | ClC(=O)OCC | C3H5ClO2
reactant | N-hydroxysuccinimide | 0.033 mol, 3.8 g | ON1C(CCC1=O)=O | C4H5NO3
reactant | N,N-Diisopropylethylamine | 0.04 mol, 7.0 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | 2-amino-2-methyl-1-propanol | 3.1 mL, 1.2 eq | NC(CO)(C)C | C4H11NO
solvent | DCM | 10 mL | C(Cl)Cl | CH2Cl2
product | ethyl (1-hydroxy-2-methylpropan-2-yl)carbamate | OCC(C)(C)NC(OCC)=O | C7H15NO3
